US09370522B2
A solution of 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid (200 mg, 0.47 mmol, 1.00 equiv) in thionyl chloride (20 mL) was heated under reflux for 3 h, then concentrated under vacuum. The residue was diluted with 10 ml of CH2Cl2 and added dropwise into a solution of MeNH2.HCl (318 mg, 4.75 mmol, 10.00 equiv) and DIEA (917 mg, 7.11 mmol, 15.00 equiv) in CH2Cl2 (20 mL) at 0° C. The resulting solution was stirred for overnight at room temperature, concentrated under vacuum, and purified by Prep-HPLC, yielding 100 mg (49%) of 2,3-bis(4-methoxyphenyl)-N-methylquinoxaline-6-sulfonamide as a yellow solid.

reactant | 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid | 0.47 mmol, 200 mg, 1.00 equiv | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)S(=O)(=O)O | C22H18N2O5S
reactant | MeNH2.HCl | 4.75 mmol, 318 mg, 10.00 equiv | CN.Cl
reactant | DIEA | 7.11 mmol, 917 mg, 15.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,3-bis(4-methoxyphenyl)-N-methylquinoxaline-6-sulfonamide | 100 mg, 49% | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)S(=O)(=O)NC | C23H21N3O4S
